US04954164
(4) Synthesis of 4-ethoxycarbonyl-1-methylpyrazole-5-sulfonamide:
To 100 ml of a 28 % aqueous ammonia, there was added 20 ml of aqueous solution containing 7.1 g of ethyl-5-mercapto-1-ethyl-4-pyrazole carboxylate and 1.6 g of sodium hydroxide. To this reaction mixture was added 61 g of 6 % aqueous NaOCl solution at 5°-10° C. The precipitated crystals were filtered and washed with water. The resultant moist sulfenamide (5.6g) was suspended in water and an aqueous saturated solution of 5.5 g of potassium permanganate was added to the suspension at room temperature. After stirring vigorously at room temperature, the mixture was filtered. The filtrate was made acidic and extracted with ethyl acetate. After drying, the solvent was evaporated to obtain 1.8 g of the title compound. m.p. 102°-104° C.

reactant | ammonia | N | H3N
reactant | ethyl-5-mercapto-1-ethyl-4-pyrazole carboxylate | 7.1 g | C(C)OC(=O)C=1C=NN(C1S)CC | C8H12N2O2S
reactant | sodium hydroxide | 1.6 g | [OH-].[Na+]
reactant | NaOCl | 61 g | [O-]Cl.[Na+]
product | 4-ethoxycarbonyl-1-methylpyrazole-5-sulfonamide | 1.8 g | C(C)OC(=O)C=1C=NN(C1S(=O)(=O)N)C | C7H11N3O4S
